US07300939B2
1.02 g (5.0 mmol) of ethyl 2-bromothiazole-5-carboxylate and 4.31 g (50 mmol) of piperazine were dissolved in ethanol (20 ml) and the mixture was heated under reflux over a period of 4 h. The solution was then concentrated in vacuo, taken up in EA and washed successively with water and a satd aq. NaCl solution. Following drying of the organic phase over MgSO4, filtration and removal of solvent in vacuo there were obtained 1.12 g (4.6 mmol, 93%) of ethyl 2-piperazin-1-ylthiazole-5-carboxylate.

reactant | ethyl 2-bromothiazole-5-carboxylate | 5.0 mmol, 1.02 g | BrC=1SC(=CN1)C(=O)OCC | C6H6BrNO2S
reactant | piperazine | 50 mmol, 4.31 g | N1CCNCC1 | C4H10N2
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | ethyl 2-piperazin-1-ylthiazole-5-carboxylate | 4.6 mmol, 1.12 g, 93% | N1(CCNCC1)C=1SC(=CN1)C(=O)OCC | C10H15N3O2S
